US07544838B2
4-Hydroxy-benzoic acid (4-methyl-benzylidene)-hydrazide (DY163)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.3 g, 0.002 mol) in abs. EtOH (10 mL) and p-tolualdehyde (0.24 g, 0.002 mol) was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.49 g, in 96% yield, mp: 252.6° C. 1H NMR (CD3OD) δ 8.26 (s, 1H), 7.82 (d, 2H), 7.70 (d, 2H), 7.24 (d,2H), 6.88 (d, 2H), 2.36 (s, 3H). 13C NMR (CDCl3) δ 166.8, 162.7, 150.0, 142.0, 132.0, 130.5, 128.8, 124.7, 116.3, 21.5. Anal. Calcd for C14H12N2O2: C, 69.99; H, 5.03; N, 11.66. Found: C, 70.01; H, 5.08; N, 11.73.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.002 mol, 0.3 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | p-tolualdehyde | 0.002 mol, 0.24 g | C1(=CC=C(C=C1)C=O)C | C8H8O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (4-methyl-benzylidene)-hydrazide | 0.49 g, 96% yield | CC1=CC=C(C=NNC(C2=CC=C(C=C2)O)=O)C=C1 | C15H14N2O2
